US07307094B2
A 15-mL, round bottomed flask equipped with a magnetic stirrer was purged with nitrogen and charged with 6-chloro-2-phenyl-benzoxazole-4-carboxylic acid (0.075 g, 0.274 mmol), 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride (0.063 g, 0.411 mmol) 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride (0.079 g, 0.411 mmol), 1-hydroxybenzotriazole (0.037 g, 0.274 mmol), diisopropylethylamine (0.141 g, 1.09 mmol), and DMF (1.0 mL). After stirring at ambient temperature for 18 h, the reaction was concentrated under reduced pressure and purified by preparative HPLC to afford 0.016 g (14% yield) of N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-6-chloro-2-phenylbenzoxazole-4-carboxamide as an off-white solid: 1H NMR (500 MHz, CDCl3) δ 8.95 (br s, 1H), 8.23 (d, J=6.9 Hz, 2H), 8.20 (d, J=2.0 Hz, 1H), 7.71 (d, J=2.0 Hz, 1H), 7.65-7.57 (m, 3H), 4.58 (q, J=7.1 Hz, 1H), 3.18 (br s, 2H), 2.58 (m, 5H), 2.25-2.02 (m, 3H), 1.55 (s, 3H), 1.23 (m, 3H); MS (APCI) m/z 409 [M+H]+

reactant | 6-chloro-2-phenyl-benzoxazole-4-carboxylic acid | 0.274 mmol, 0.075 g | ClC=1C=C2C(N=C(O2)C2=CC=CC=C2)=C(C1)C(=O)O | C14H8ClNO3
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | 0.411 mmol, 0.063 g | Cl.Cl.NC1CC2CCCC(C1)N2C
reactant | 1-hydroxybenzotriazole | 0.274 mmol, 0.037 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 1.09 mmol, 0.141 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-6-chloro-2-phenylbenzoxazole-4-carboxamide | 0.016 g, 14% yield | CN1C2CC(CC1CCC2)NC(=O)C=2C=C(C=C1C2N=C(O1)C1=CC=CC=C1)Cl | C23H24ClN3O2
